US05457106
Synthesis of 2-(phthalimidomethyloxy)pyridine
In 4 ml of benzene were suspended 0.095 g (1.0 mmol) of 2-hydroxypyridine and 0.14 g (0.5 mmol) of silver carbonate, N-bromomethylphthalimide [0.29 g (1.2 mmol)] was added at room temperature, and the mixture was stirred at 80° C. for 14 hours under heating. After cooling, the residue was filtered and the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/hexane=10:l) to obtain powder. The powder was recrystallized from ethyl acetate to obtain 0.10 g of the desired compound (yield: 39.0%, colorless columns).

reactant | 2-hydroxypyridine | 1.0 mmol, 0.095 g | OC1=NC=CC=C1 | C5H5NO
reactant | N-bromomethylphthalimide | 1.2 mmol, 0.29 g | BrCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6BrNO2
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | 0.5 mmol, 0.14 g | C([O-])([O-])=O.[Ag+2]
product | 2-(phthalimidomethyloxy)pyridine | 0.10 g, yield: 39.0% | C1(C=2C(C(N1COC1=NC=CC=C1)=O)=CC=CC2)=O | C14H10N2O3
